data/mechanism_extracts/Angew/10.1002_anie.202300533_sup_2.json
{"doi": "10.1002_anie.202300533_sup_2", "journal": "Angew", "is_review": false, "rxn_class_summary": "Iron-catalyzed electrochemical nitration of alkenes, alkynes, aryl boronic acids and arenes (including halo-, decarboxylative, and deborylative variants) using Fe(NO3)3 as both NO2-radical source and redox mediator", "mechanism_family": ["radical_polar_crossover", "electrocatalysis_inner_sphere", "mediator_cathodic", "radical_anodic"], "electrochemical_role": "Cathodic reduction of Fe(III) to Fe(II) initiates the cycle; Fe(II) reduces nitrate (or Fe(III)-bound nitrate) to release NO2 radical; the Fe(II) generated is re-oxidized at the anode (along with halide A- to A2) to regenerate Fe(III)", "key_intermediates": [{"name": "NO2 radical", "smiles": "[O]N=O", "role": "reactive"}, {"name": "Fe(II) species (reduced mediator)", "smiles": null, "role": "transient"}, {"name": "Fe(III) oxo/hydrate resting state (FeIIIxO2·nH2O)", "smiles": null, "role": "resting_state"}, {"name": "beta-nitro carbon radical (R-CH(•)-CH2NO2)", "smiles": null, "role": "reactive"}, {"name": "[FeIII-X] halide complex for ligand transfer (X = Br, Cl)", "smiles": null, "role": "transient"}, {"name": "beta-halo-nitroalkane (R-CHX-CH2NO2) prior to base elimination", "smiles": null, "role": "transient"}, {"name": "alpha-nitro-beta-Bpin carbon radical (deborylative pathway)", "smiles": null, "role": "transient"}, {"name": "alpha-nitro-beta-carboxylate Fe(III) intermediate (decarboxylative pathway)", "smiles": null, "role": "transient"}, {"name": "nitro-substituted cyclohexadienyl radical/cation (aryl nitration)", "smiles": null, "role": "transient"}], "electron_flow": "Cathode injects an electron into Fe(III) to give Fe(II), which reduces nitrate to NO2 radical; NO2• adds to the alkene/alkyne or aryl pi-system to give a C-centered radical that is intercepted by Fe(III)-X ligand transfer (halonitration), by loss of CO2/Bpin/H+ (decarboxylative/deborylative/aromatic nitration); at the anode, halide is oxidized to X2 and Fe(II) reoxidized to Fe(III), closing the cycle.", "rate_determining_step": "Generation/release of NO2 radical from Fe(III)-nitrate via Fe(II) (electron injection-dependent), consistent with on/off current induction behavior", "probe_reagents": [{"name": "1-chloro-4-(1-cyclopropylvinyl)benzene (radical clock)", "smiles": "ClC1=CC=C(C(=C)C2CC2)C=C1", "purpose": "radical_clock", "observation": "Ring-opened bromo-nitroalkene product 4 isolated in 77% (E:Z = 1.1:1), confirming a carbon-centered radical intermediate after NO2• addition"}, {"name": "Current on/off", "smiles": null, "purpose": "redox_probe", "observation": "Conversion proceeds only while current is applied; no dark propagation, indicating continuous electrochemical initiation/turnover of Fe and induction period at low F/mol"}, {"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Invoked in decarboxylative mechanism as trapping the α-nitro-β-carboxylate radical, supporting radical intermediate"}], "evidence_types_used": ["radical_clock", "on/off_light_or_current", "intermediate_trap_TEMPO", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Mechanism is unified across four substrate classes (alkenes, vinyl acids, vinyl boronates, arenes/ArB(OH)2) with the same Fe(III)/Fe(II) electrocatalytic cycle releasing NO2•. For halonitration, the C-radical is captured by Fe(III)-X (radical ligand transfer) and then undergoes base-mediated E2/intramolecular SN2 to give nitroalkenes or nitrolactones (81 & 82). For aryl nitration the cyclohexadienyl radical is oxidized by Fe(III) to a Wheland cation that loses H+ or B(OH)2 (ipso). An alternative direct anodic oxidation of nitrate to NO2• cannot be fully excluded but the Fe-mediated cathodic-initiation pathway is favored."}
